US06602864B1
Thieno[3,2-b]pyridine-2-sulfonic Acid [1-(1-Amino-isoquinolin-7-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
To a solution of 3-(S)-amino-1-(1-chloro-isoquinolin-7-ylmethyl)-pyrrolidin-2-one hydrochloride (0.15 g, 0.48 mmol) suspended in CH3CN (2.5 mL) is added triethylamine (0.23 mL, 1.6 mmol) followed by thieno[3,2-b]pyridine-2-sulfonyl chloride (0.14 g, 0.55 mmol). The mixture is stirred overnight, then concentrated. The residue is diluted with CH2Cl2 and washed with saturated NaHCO3 and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness. The crude product is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to give the title compound (0.076 g, 0.16 mmol) as a light yellow solid.

reactant | 3-(S)-amino-1-(1-chloro-isoquinolin-7-ylmethyl)-pyrrolidin-2-one hydrochloride | 0.48 mmol, 0.15 g | Cl.N[C@@H]1C(N(CC1)CC1=CC=C2C=CN=C(C2=C1)Cl)=O
reactant | triethylamine | 1.6 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | thieno[3,2-b]pyridine-2-sulfonyl chloride | 0.55 mmol, 0.14 g | S1C(=CC2=NC=CC=C21)S(=O)(=O)Cl | C7H4ClNO2S2
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | Thieno[3,2-b]pyridine-2-sulfonic Acid [1-(1-Amino-isoquinolin-7-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.16 mmol, 0.076 g | NC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=NC=CC=C2S1)=O | C21H19N5O3S2
